US07018723B2
Preparation of 3′,5′-diphenyl-p-quaterphenyl
Sodium 4-biphenylacetate (25.0 g, 0.106 mmol.) was placed in a suspension of 2,4,6-triphenylpyrylium tetrafluoroborate (41.0 g, 0.106 mol.) in 80 mL of acetic anhydride under nitrogen atmosphere and refluxed for 24 hours. The crude product was extracted with a 7:3 ratio mixture of hexane/dichloromethane. The solvent was stripped, and the crude product sublimed 4 times to achieve 99% purity. The practical yield following sublimations was 20%.

reactant | Sodium 4-biphenylacetate | 0.106 mmol, 25.0 g | C1(=CC=C(C=C1)CC(=O)[O-])C1=CC=CC=C1.[Na+]
reactant | 2,4,6-triphenylpyrylium tetrafluoroborate | 0.106 mol, 41.0 g | F[B-](F)(F)F.C1(=CC=CC=C1)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | acetic anhydride | 80 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3′,5′-diphenyl-p-quaterphenyl | C1(=CC=CC=C1)C=1C=C(C=C(C1C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H26
